Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
ranitidine / Proton Pump Inhibitors
 
Attending: ___
 
___ Complaint:
epigastric pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 Mr. ___ is a ___ with h/o HTN and DMII on losartan who 
presents for acute epigastric pain.  
 Pt reports epigastric pain since 6AM this morning. Reports 
nausea and vomiting, w/4x episodes of yellow vomit, NBNB. Denies 
diarrhea. Denies EtOH use. No diarrhea. Denies chills, chest 
pain, SOB, cough. No changes in vision, headache, or 
lightheadedness. Notes he did not take home dose of losartan 
this morning.  

 
Past Medical History:
HTN  
Non-insulin dependent DM 

 
Social History:
___
Family History:
Brother has diabetes and poorly controlled hypertension. No 
family history of renal or autoimmune disease. 
 
Physical Exam:
admission physical exam
Vitals: T 98.7 BP 160/90 HR 90 RR 20 SpO2 94% RA  
 General: Alert, oriented, no acute distress  
 HEENT: No pallor. no icterus. conjuctiva and sclera clear  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs  
 Lungs: Clear to auscultation bilaterally,no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present  

 Ext:no clubbing, cyanosis or edema;  
 NEURO: No focal deficits. Normal speech  

discharge physical exam
 Vitals: 98.4  147/90  73  17  97RA
 General: alert, oriented, no acute distress  
 HEENT: sclera anicteric, MMM, oropharynx clear  
 Neck: supple, JVP not elevated, no lymphadenopathy  
 Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
 CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no CVA tenderness, no 
organomegaly though examination is limited by body habitus
 GU: no foley  
 Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNs2-12 intact, motor function grossly normal

 
Pertinent Results:
ADMISSION LABS
==============
___ 01:30PM   PLT COUNT-172
___ 01:30PM   NEUTS-84.0* LYMPHS-8.9* MONOS-6.2 EOS-0.2* 
BASOS-0.3 IM ___ AbsNeut-10.90* AbsLymp-1.15* AbsMono-0.80 
AbsEos-0.03* AbsBaso-0.04
___ 01:30PM   WBC-13.0* RBC-4.91 HGB-14.3 HCT-43.5 MCV-89 
MCH-29.1 MCHC-32.9 RDW-12.4 RDWSD-40.5
___ 01:30PM   ALBUMIN-3.7 CALCIUM-8.7 PHOSPHATE-4.0 
MAGNESIUM-1.5*
___ 01:30PM   cTropnT-<0.01
___ 01:30PM   LIPASE-68*
___ 01:30PM   ALT(SGPT)-42* AST(SGOT)-42* ALK PHOS-80 TOT 
BILI-0.6
___ 01:30PM   GLUCOSE-289* UREA N-25* CREAT-2.8* SODIUM-133 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-18* ANION GAP-19
___ 01:45PM   LACTATE-2.2*
___ 10:00PM URINE  RBC-10* WBC-11* BACTERIA-FEW YEAST-NONE 
EPI-6
___ 10:00PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-100 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 LEUK-SM 

___ 10:00PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 10:00PM URINE  HOURS-RANDOM CREAT-66 SODIUM-61 
POTASSIUM-18 CHLORIDE-48 TOT PROT-109 PROT/CREA-1.7*
___ 01:54AM   LACTATE-1.5 NA+-139 K+-4.0 CL--106 TCO2-20*
___ 05:55AM   HCV Ab-Negative
___ 05:55AM   HBsAg-Negative HBs Ab-Positive HBc 
Ab-Negative
___ 05:55AM   CALCIUM-8.3* PHOSPHATE-5.1* MAGNESIUM-1.6
___ 05:55AM   cTropnT-<0.01
___ 05:55AM   GLUCOSE-203* UREA N-29* CREAT-3.0* SODIUM-139 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-22 ANION GAP-17
___ 12:45PM   HIV Ab-Negative
___ 06:00PM URINE  EOS-POSITIVE  
___ 06:00PM URINE  MUCOUS-RARE
___ 06:00PM URINE  RBC-1 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 06:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 06:00PM URINE  COLOR-Straw APPEAR-Clear SP ___

MICRO
=====
__________________________________________________________
___ 8:25 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   ASO Screen (Final ___: 
      POSITIVE by Latex Agglutination. 
      Reference Range:  < 200 IU/ml (Adults and children > ___ 
years old). 

   ASO TITER (Final ___: 
      POSITIVE 400-800 IU/ml. 
      Performed by latex agglutination. 
      Reference Range:  < 200 IU/ml (Adults and children > ___ 
years old). 
__________________________________________________________
___ 10:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 1:30 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

DISCHARGE LABS
==============
___ 10:50AM BLOOD WBC-8.0 RBC-4.90 Hgb-14.2 Hct-43.4 MCV-89 
MCH-29.0 MCHC-32.7 RDW-12.6 RDWSD-41.2 Plt ___
___ 10:50AM BLOOD Plt ___
___ 10:50AM BLOOD Glucose-313* UreaN-40* Creat-1.9* Na-131* 
K-4.4 Cl-94* HCO3-21* AnGap-20
___ 10:50AM BLOOD Calcium-9.4 Phos-3.6 Mg-1.9

IMAGING/STUDIES
===============
___ Imaging CHEST (PA & LAT) 
No acute cardiopulmonary process.

___ Imaging LIVER OR GALLBLADDER US 
Left lower pole nonobstructing renal stone.  No cholelithiasis.

___ Imaging AORTA AND BRANCHES 
No evidence of abdominal aortic aneurysm.

___BD & PELVIS W/O CON 
1. No acute intra-abdominal abnormality to explain the patient's 
presentation. 
2. Mildly enlarged kidneys bilaterally.  This is nonspecific, 
but may reflect renal parenchymal disease.  No hydronephrosis or 
hydroureter. 
3. Nonobstructing 3 mm stone in the lower pole of the left 
kidney. 
4. Hepatic steatosis. 

___ Imaging MRA CHEST 
No thoracic aorta dissection or aneurysmal formation.

 
Brief Hospital Course:
Mr. ___ is a ___ year-old gentleman with a history of DMII and 
HTN presenting with acute onset epigastric pain, severe 
hypertension, and ___. 

#HYPERTENSION: BP 211/143 on arrival to ED. Per PCP notes, HTN 
ongoing and poorly since ___ with BP usually ~200/140 at clinic 
or ED visits. BP managed with labetolol 100mg TID and eventually 
amlodipine 10mg daily while admitted. Losartan was held (and 
should continue to be held as an outpatient until normalized 
renal function) in the setting of acute kidney injury. BP in 
140s-160s/80s-100s range by the time of discharge. 
DISCHARGE MEDS: amlodipine 10mg daily, labetolol 100mg TID. 
Losartan HELD.

#HEMATURIA:
#PYURIA:
#PROTEINURIA:
___: Creatinine of 3.0 on admission, baseline is 0.7 as of 
___. Initial UA showed moderate blood + 10 RBCs and 
>100 protein. Urine sediment with WBC casts and many RBCs 
without dysmorphic features. Repeat UA on ___ showed 
resolved hematuria and proteinuria. Rare eosinophils were 
present in this sample. Leading diagnosis continues to be 
drug-induced acute interstitial nephritis; eosinophils in urine 
are supportive of this. Suspected cause if single dose of 
ibuprofen and ranitidine. Differential was otherwise broad, 
including HIV nephropathy (negative HIV antibody this 
admission), lupus nephritis (normal complement levels, no other 
signs/symptoms of lupus), Wegener's granulomatosis (no other 
organs/areas affected), and RPGN (RBCs in urine resolved, no 
dysmorphic RBCs). Hypertensive nephrosclerosis and diabetic 
nephropathy were felt to be unlikely given the acute decline in 
renal function and urine sediment findings. Pt was evaluated by 
nephrology, who agreed that this was most likely AIN. Decision 
was made to start patient on prednisone 80mg daily for a 14 day 
course, to presumably shorten duration of AIN and prevent 
further complication. Pt's creatinine steadily improved 
throughout admission, eventually down to 1.9 at the time of 
discharge. Labs to assess for vasculitis, autoimmune diseases 
were sent, and were still pending at the time of discharge ___, 
ANCA, ASO). Going forward, pt should STRICTLY AVOID NSAIDs and 
H2 blockers, as well as PPIs to prevent another episode of AIN.

#ACUTE EPIGASTRIC PAIN: Likely viral gastroenteritis, resolved 
upon admission to floor. Avoid H2 blockers and PPIs, given AIN.

#DIABETES MELLITUS TYPE 2: Poorly controlled, with most recent 
A1C of 11.8 in ___. Reports poor adherence to glipizide. 
FSBGs 170s-190s during admission. Managed with sliding scale 
insulin. Glucose increased to 300 after starting prednisone. 
Decision was made to put patient on long-acting insulin, at 
least while he is on prednisone. Discharged on 10U lantus daily, 
following insulin education while still admitted. Will be 
ongoing issue as an outpatient; will likely need medication 
titration to achieve better glycemic control.

TRANSITIONAL ISSUES:
[ ] Stopped losartan in setting of ___, given proteinuric kidney 
disease. Consider restarting when renal function returns to 
normal (and discontinuing labetolol).
[ ] New medications: amlodipine 10mg daily, labetolol 100mg TID, 
prednisone 80mg daily x14 days (last day ___, insulin 
(lantus) 10U SC qAM
[ ] A1c 12 per PCP, discharge on insulin (lantus) 10U SC qAM, 
given prednisone course and subsequent hyperglycemia. Will need 
very tight management of glucose as an outpatient - may need 
long-term insulin.
[ ] ___ consider work-up of secondary hypertension as an 
outpatient, given patient's young age and severe hypertension.

Greater than 30 minutes were spent on this patient's discharge 
day management.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Losartan Potassium 100 mg PO DAILY 
2. GlipiZIDE Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  FreeStyle Lancets (lancets) 28 gauge miscellaneous 1X:ASDIR 
RX *lancets [FreeStyle Lancets] 28 gauge use one lancet twice 
daily Disp #*100 Each Refills:*0 
3.  FreeStyle Lite Meter (blood-glucose meter) 1 meter 
miscellaneous ASDIR 
RX *blood-glucose meter [FreeStyle Lite Meter]  1 kit dispense 1 
kit Disp #*1 Kit Refills:*0 
4.  FreeStyle Lite Strips (blood sugar diagnostic) 1 strip 
miscellaneous as directed 
RX *blood sugar diagnostic [FreeStyle Test]  1 strip twice daily 
Disp #*100 Strip Refills:*0 
5.  Insulin Syringe (insulin syringe-needle U-100) 0.5 mL 29 
gauge x ___ miscellaneous 1X:ASDIR  
6.  Glargine 10 Units Breakfast
RX *insulin glargine [Lantus] 100 unit/mL 10 U subcutaneosu qAM 
Disp #*1 Vial Refills:*0 
7.  Labetalol 100 mg PO Q8H 
RX *labetalol 100 mg 1 tablet(s) by mouth q8 hours Disp #*90 
Tablet Refills:*0 
8.  PredniSONE 80 mg PO DAILY Duration: 14 Doses 
RX *prednisone 20 mg 4 tablet(s) by mouth daily Disp #*48 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
acute kidney injury, acute interstitial nephritis
hypertensive emergency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ from 
___ to ___.

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- belly pain
- very high blood pressure
- kidney damage

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- We found that you had a problem with your kidneys. This may 
have been an allergic reaction in the kidneys caused by taking 
ibuprofen (Advil) or ranitidine (Zantac).  
- Your kidneys improved while you were here, not quite back to 
their normal function, but we hope that they will eventually 
return to normal. 
- You were seen by our kidney doctors.
- We started you on a steroid, called prednisone, which you will 
take for 2 weeks (last day ___. We think this will continue 
to help your kidneys.
- We started you on two new medications for your blood pressure 
- amlodipine and labetolol. We stopped losartan, as this can 
make your kidneys worse when they are already injured.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL?
- Taking prednisone can make your blood sugar even higher than 
it is normally. For this reason, we need you to take insulin to 
help keep your blood sugar under control. It is very important 
that you do this injection daily, and that you check you blood 
sugar at home.
- It is very important that you do not take any medications like 
ibuprofen, Motrin, Aleve, naproxen because this could make your 
kidneys worse. Please also do not take medications like 
ranitidine, Zantac, famotidine - these could also make your 
kidneys worse.
- Continue to take amlodipine once a day and labetolol three 
times a day. Do not take losartan. As your kidneys improve, we 
hope that you can stop taking the labetolol, and restart your 
losartan. Do not make any changes to your medicines without 
discussing it with your doctor.
- You will see your primary care doctor in the office on ___ 
___. It is very important for you to keep that appointment, 
so she can check in on your blood sugar, blood pressure, and 
kidney function.
- You will see a kidney doctor in the office in the next few 
weeks.

We wish you the best with your health in the future!

Your ___ Medicine Team
 
Followup Instructions:
___